Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.43567235742
[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],4.437580383469999
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7],0.350126526201
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][O:8][H:9]>>[H:1][C:2]#[C:3][O:5][C:6]#[C:7][O:8][H:9].[H:4],2.37720022387
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-7.052382260739999
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4].[C:5]([H:6])([H:7])[H:8],2.18381318108
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],5.01455972265
[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:12]([C:9]([O:8][C:5]([H:6])[H:7])([H:10])[H:11])([H:13])[H:14],3.85129435297
[C:2]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:4][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-7.477080890539999
[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.310561622287
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3][H:4],5.6946275489600024
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.92220529348
[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:12]([H:13])([H:14])[H:15].[O:10][H:11]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-2.8816226747400004
[C:2]([H:3])([H:4])=[C:5]([H:6])[O:7][C:8][H:9].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:7][C:8][H:9],-1.49173245768
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:9]/[O:10][H:11].[H:8],2.93208653911
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],2.79727452364
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.97351981795
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7][H:8].[H:9],4.40364777809
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2]([H:3])[H:4],1.26320948811
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8].[H:9],4.11100354268
[O:1]=[C:2]1[C:3][O:4][C:5]=[C:6]1[H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7],-0.538970044459
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.0796137806
[C:5]([H:6])([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.1004860122700002
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.489313418459999
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.15789458733
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],-5.0850569946
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-6.41604994367
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-2.32144571716
[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.6051108074899998
